US08372866B2
d) 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one
Prepared analogously to Example 5d), starting from 2-(6-methoxypyridin-3-yl)-3-hydroxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one. Yield: 74%; TLC (9/1 Chloroform/Methanol): Rf 0.89, 1H-NMR (d6-DMSO): 9.78 (s broad, 1H), 8.81 (d, 1H), 8.31 (d, 1H), 8.25 (dd, 1H); 7.79 (dd, 1H); 7.68 (d, 1H); 7.30 (m, 5H), 6.97 (d, 1H); 5.16 (s, 2H), 3.94 (s, 3H), 1.52 (s, 3H).

reactant | 2-(6-methoxypyridin-3-yl)-3-hydroxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one | COC1=CC=C(C=N1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(=O)OC(C)(C)C | C20H20N2O6
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | 2-(6-methoxypyridin-3-yl)-3-benzyloxy-6-(N-tertbutoxycarbonylamino)-4H-1-benzopyran-4-one | Yield: 74% | COC1=CC=C(C=N1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(=O)OC(C)(C)C | C27H26N2O6
